US08877805B2
Step 1. Synthesis of 5-ethoxycarbonylfuran-2-ylacetic acid
5-Chloromethyl-2-furancarboxylic acid ethyl ester (1.0 g, 5.3 mmol), potassium iodide (0.044 g, 0.27 mmol), and chloro(1,5-cyclooctadiene)rhodium(I) dimer (0.26 g, 0.53 mmol) were dissolved in formic acid (25 mL), and the mixture was stirred at 75° C. for 6 hours under a carbon monoxide atmosphere. The solvent was evaporated, and the residue was partitioned between ethyl acetate and aqueous sodium hydrogen carbonate solution. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The drying agent was filtered off, the solvent was evaporated, and the residue was purified by silica gel column chromatography to give the title compound (0.61 g).

reactant | 5-Chloromethyl-2-furancarboxylic acid ethyl ester | 5.3 mmol, 1.0 g | C(C)OC(=O)C=1OC(=CC1)CCl | C8H9ClO3
reactant | potassium iodide | 0.27 mmol, 0.044 g | [I-].[K+]
reactant | formic acid | 25 mL | C(=O)O | CH2O2
catalyst | chloro(1,5-cyclooctadiene)rhodium(I) dimer | 0.53 mmol, 0.26 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Rh].[Rh]
product | 5-ethoxycarbonylfuran-2-ylacetic acid | 0.61 g | C(C)OC(=O)C1=CC=C(O1)CC(=O)O | C9H10O5
